US04202793
The microspheres are then aged in 32% (by weight) aqueous ammonia, for 2 hours. During this time the reaction of the uranyl nitrate with ammonia is completed to give an insoluble precipitate of ammonium diuranate and the polymerization of the polymer is continued.

reactant | uranyl nitrate | [N+](=O)([O-])[O-].[U+2](=O)=O.[N+](=O)([O-])[O-]
solvent | ammonia | N | H3N
product | ammonium diuranate | [NH4+].[NH4+].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[U].[U] | InChI=1S/2H3N.7O.2U/h2*1H3;;;;;;;;;/q;;7*-2;;/p+2
